US05104885
To a mechanically stirred mixture of 5-hydroxy-6-methoxy-4-methyl-8-nitroquinoline (WRAIR, 4.00 g, 0.017 mol), 1-bromo-5-(2-furyl) pentane (3.65 g, 0.017 mol) and HMPA (25 ml), at 105°-110° C., was added dropwise, during 60 min, a solution of Et3N(3.5 ml) and propylene oxide (6.5 ml). The mixture was heated at 105°-110° C. for 2 hr, allowed to cool and extracted with a solution of pet. ether (20°-40° C.) and Et2O (1:1 v/v, 200 ml), leaving behind a black residue. The organic layer was washed with 10% NaOH solution (3×50 ml). The combined basic wash solutions were re-extracted with a pet. ether (20°-40° C.)-Et2O solution (1:1 v/v, 2×75 ml) and the combined organic layers were washed with H2O (2×50 ml), dried (Na2SO4), treated with Darco, filtered and concentrated to give 5-[5-(2-furyl) pentoxy]-6-methoxy-4-methyl-8-nitroquinoline as a yellow solid, 2.5 g (40%) mp. 47°-49° C. This material was used without further purification.

reactant | 5-hydroxy-6-methoxy-4-methyl-8-nitroquinoline | 0.017 mol, 4.00 g | OC1=C2C(=CC=NC2=C(C=C1OC)[N+](=O)[O-])C | C11H10N2O4
reactant | 1-bromo-5-(2-furyl) pentane | 0.017 mol, 3.65 g | BrCCCCCC=1OC=CC1 | C9H13BrO
reactant | HMPA | 25 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | propylene oxide | 6.5 ml | C1C(C)O1 | C3H6O
solvent | Et3N | 3.5 ml | CCN(CC)CC | C6H15N
product | 5-[5-(2-furyl) pentoxy]-6-methoxy-4-methyl-8-nitroquinoline | O1C(=CC=C1)CCCCCOC1=C2C(=CC=NC2=C(C=C1OC)[N+](=O)[O-])C | C20H22N2O5
